US06878728B1
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(phenethyloxy)benzyl]propylcarbamate (202)
To a solution of 66 mg (0.25 mmol) of triphenylphosphine and 30 μL (0.25 mmol) of phenethyl alcohol in 3 mL of anhydrous CH2Cl2 was added 58 mg (0.25 mmol) of di-tert-butyl azodicarboxylate. The resulting solution was stirred at RT for 5 minutes and was then treated with a solution of 50 mg (0.084 mmol) of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate in 2 mL of CH2Cl2. After stirring at RT for 1.5 hours the solution was concentrated to dryness and the residue purified by flash chromatography (SiO2, 4:6 hexane/EtOAc) to give the desired product as a white foam in 72% yield. 1H NMR (CDCl3): 7.34-7.17 (m, 6H), 7.15 (s, 1H), 7.07 (d, 2H), 6.86 (d, 1H), 6.78 (d, 2H), 6.03 (s, 2H), 5.61 (d, 1H), 4.98 (m, 1H), 4.86 (d, 1H), 4.09 (t, 2H), 3.92 (m, 1H), 3.84-3.56 (m, 6H), 3.17-3.01 (m, 3H), 3.00-2.81 (m, 4H), 2.80-2.64 (m, 2H), 1.78 (m, 1H), 1.56 (m, 1H), 1.47 (m, 1H), 0.91 (d, 3H), 0.85 (d, 3H). MS(ESI): 697(M+H).

reactant | triphenylphosphine | 0.25 mmol, 66 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenethyl alcohol | 0.25 mmol, 30 μL | C(CC1=CC=CC=C1)O | C8H10O
reactant | di-tert-butyl azodicarboxylate | 0.25 mmol, 58 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 0.084 mmol, 50 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(phenethyloxy)benzyl]propylcarbamate | 72% yield | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCC2=CC=CC=C2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C36H44N2O10S
